US05945440
500 mg (1.47 mmol) 6,7,12,13-tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole in 50 ml acetonitrile are stirred for 4 days at 20° C. with 1.05 g (14.8 mmol) acrylamide and 0.1 ml DBU. The suspension is evaporated, stirred with 30 ml dichloromethane/methanol (95:5 v/v) and the undissolved crystals are filtered off. 12-(2-carbamoylethyl)-6,7,12,13-tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo-[3,4-c]carbazole is obtained in the form of yellow crystals.

reactant | 6,7,12,13-tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo[3,4-c]carbazole | 1.47 mmol, 500 mg | CN1C(C=2C3=C(C=4NC5=CC=CC=C5C4C2C1=O)NC=1C=CC=CC13)=O | C21H13N3O2
reactant | acrylamide | 14.8 mmol, 1.05 g | C(C=C)(=O)N | C3H5NO
reactant | DBU | 0.1 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 12-(2-carbamoylethyl)-6,7,12,13-tetrahydro-6-methyl-5,7-dioxo-5H-indolo[2,3-a]pyrrolo-[3,4-c]carbazole | C(N)(=O)CCN1C2=CC=CC=C2C=2C3=C(C4=C(C12)NC=1C=CC=CC14)C(N(C3=O)C)=O | C24H18N4O3
